US08535655B2
c) 1,3-dihydroxypropan-2-yl phenyl succinate
Phenyl 2-phenyl-1,3-dioxan-5-yl succinate (0.11 g, 0.3 mmol) was dissolved in ethanol (20 ml) under argon and Pd/C (0.09 g, 0.1 mmol) was added. The flask was flushed with hydrogen and allowed to stir under 1 atm H2 at room temperature for 16 h. The crude reaction mixture was passed through a plug of celite and the solvent was removed under reduced pressure yielding (0.9 g, 0.26 mmol, 89%). The product was used without any further purification.

reactant | Phenyl 2-phenyl-1,3-dioxan-5-yl succinate | 0.3 mmol, 0.11 g | C(CCC(=O)OC1COC(OC1)C1=CC=CC=C1)(=O)OC1=CC=CC=C1 | C20H20O6
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.1 mmol, 0.09 g | [Pd] | Pd
product | 1,3-dihydroxypropan-2-yl phenyl succinate | C(CCC(=O)OC1=CC=CC=C1)(=O)OC(CO)CO | C13H16O6
